US07342027B2
Step 2. 1-[N-(benzofuran-2-ylcarbonyl)amino]cyclohexanecarboxylic acid
To the solution of methyl 1-[N-(benzofuran-2-ylcarbonyl)amino]-1-cyclohexanecarboxylate (105.0 g) in 450 ml of methanol, was added 2N-sodium hydroxide solution (170 ml, 0.34 mol). The reaction mixture was refluxed for 23 hours and concentrated to obtain a residue, which was diluted with 400 ml of water and washed with 300 ml of diethyl ether. 6N-hydrochloride was added dropwise to the resulting aqueous layer to adjust the pH of the solution to pH 3. The resulting white solid was filtered and dried to give the titled compound (49.5 g).

reactant | methyl 1-[N-(benzofuran-2-ylcarbonyl)amino]-1-cyclohexanecarboxylate | 105.0 g | O1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)OC | C17H19NO4
reactant | sodium hydroxide | 0.34 mol, 170 ml | [OH-].[Na+]
solvent | methanol | 450 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
product | 1-[N-(benzofuran-2-ylcarbonyl)amino]cyclohexanecarboxylic acid | 49.5 g | O1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)O | C16H17NO4
